US05663200
7b) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid
2.6 g (4.89 mmol) of 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxy-phenyl)-ethyl]-3(R)-[(p-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 50 ml of dimethoxyethane are hydrolysed, under an N2 atmosphere, with 19.6 ml of a 1M lithium hydroxide solution in water. After 25 h at RT, the dimethoxyethane is evaporated off on a RE, and the residue is treated with an ice-cold mixture of 150 ml of sat. NH4Cl solution, 25 ml of 10% citric acid solution and methylene chloride. The aqueous phase is separated off and extracted 2× with methylene chloride. The organic phases are washed with saline, dried with Na2SO4 and evaporated to give the title compound: TLC Rf (B)=0.28; tRet (II)=16.4 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-(p-benzyloxy-phenyl)-ethyl]-3(R)-[(p-methoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 4.89 mmol, 2.6 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OC | C32H37NO6
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-(p-benzyloxyphenyl)-2(R)-[(p-methoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OC)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C32H39NO7
